US08138187B2
3-(2-(1H-Indol-3-yl)ethyl)thiazolidine (Ind-73)
3-(2-Bromo-ethyl)-indole (3.00 g, 13.4 mmol) and thiazolidine (2.38 g, 26.8 mmol) were stirred in abs. CHCl3 (25 ml) at a bath temperature of 75° C. for 5 h. The mixture was cooled to RT and extracted with dilute sulfuric acid (2×30 ml). The acidic aqueous phase was rendered alkaline with 5N NaOH, while cooling with ice, and extracted with ether (3×30 ml). The organic phase was dried over Na2SO4 and concentrated i. vac. and the residue was purified by flash chromatography with CHCl3/MeOH (20:1→4:1→MeOH).

reactant | 3-(2-Bromo-ethyl)-indole | 13.4 mmol, 3.00 g | BrCCC1=CNC2=CC=CC=C12 | C10H10BrN
reactant | thiazolidine | 26.8 mmol, 2.38 g | S1CNCC1 | C3H7NS
solvent | CHCl3 | 25 ml | C(Cl)(Cl)Cl | CHCl3
product | 3-(2-(1H-Indol-3-yl)ethyl)thiazolidine | N1C=C(C2=CC=CC=C12)CCN1CSCC1 | C13H16N2S
